US08877801B2
To a 30 mL vial, (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (100 mg, 0.230 mmol) and acetohydrazide (85 mg, 1.151 mmol) were dissolved in POCl3 (2 mL, 21.46 mmol) and the mixture was heated to 100° C. for 18 h. The reaction mixture was cooled to room temperature poured into ice. The solution was quenched with sat. sodium bicarb and diluted with DCM. The organic layer was collected (phase separator) and concentrated to provide the crude material. The crude product was purified by reverse phase HPLC (acidic condition, 0.1% TFA in 30-100% CH3CN/H2O) to afford (E)-2-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-5-methyl-1,3,4-oxadiazole (83 mg, 0.176 mmol, 76% yield) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm=2.38 (s, 3H), 2.57 (s, 3H), 3.90 (s, 3H), 6.81-6.98 (m, 4H), 6.98-7.08 (m, 2H), 7.28-7.42 (m, 2H), 7.44-7.58 (m, 4H). LC/MS (m/z, MH+): 473.4.

reactant | (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.230 mmol, 100 mg | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)O)C | C25H19FO4S
reactant | acetohydrazide | 1.151 mmol, 85 mg | C(C)(=O)NN | C2H6N2O
reactant | POCl3 | 21.46 mmol, 2 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | (E)-2-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-5-methyl-1,3,4-oxadiazole | 0.176 mmol, 83 mg, 76% yield | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(/C=C/C=1OC(=NN1)C)C=C2)C | C27H21FN2O3S
